US04962109
Ethyl (RS)-2-(1,1-dimethylethyl)-4-oxo-butanoate (0.57 g) was dissolved in excess triethylorthoformate and a catalytic amount of p-toluenesulphonic acid was added. After stirring for 1 hour at the ambient temperature, excess triethylorthoformate was evaporated under reduced pressure to give ethyl (RS)-4,4-diethoxy-2-(1,1-dimethylethyl)butanoate, the spectral data of which were identical to those obtained in Example 6 (ii).

reactant | Ethyl (RS)-2-(1,1-dimethylethyl)-4-oxo-butanoate | 0.57 g | CC(C)(C)C(C(=O)OCC)CC=O | C10H18O3
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | triethylorthoformate | C(C)OC(OCC)OCC | C7H16O3
product | ethyl (RS)-4,4-diethoxy-2-(1,1-dimethylethyl)butanoate | C(C)OC(CC(C(=O)OCC)C(C)(C)C)OCC | C14H28O4
